US06461997B1
To a solution of 0.12 g (0.45 mmol) 3-(bromodifluoromethylsulfonyl)-1,2,4-triazole, prepared as above, in 0.5 ml dry pyridine was added 0.07 g (0.54 mmol) pyrrolidine-1-carbonyl chloride and the mixture was agitated for 16 h at room temperature. The reaction mixture was then diluted with water and extracted with ether. The resulting organic layer was washed successively with dilute hydrochloric acid, water and saturated sodium bicarbonate solution, dried over MgSO4 and evaporated to give 0.1 g (65% yield) of the desired 3-(bromodifluoromethylsulfonyl)-1-(pyrrolidinocarbonyl)-1,2,4-triazole as a pale yellow oil: 1H NMR (CDCl3) δ(ppm) 9.1 (1H), 4.0 (2H), 3.7 (2H), 2.1 (4H).

reactant | 3-(bromodifluoromethylsulfonyl)-1,2,4-triazole | 0.45 mmol, 0.12 g | BrC(S(=O)(=O)C1=NNC=N1)(F)F | C3H2BrF2N3O2S
reactant | pyrrolidine-1-carbonyl chloride | 0.54 mmol, 0.07 g | N1(CCCC1)C(=O)Cl | C5H8ClNO
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-(bromodifluoromethylsulfonyl)-1-(pyrrolidinocarbonyl)-1,2,4-triazole | 0.1 g, 65% yield | BrC(S(=O)(=O)C1=NN(C=N1)C(=O)N1CCCC1)(F)F | C8H9BrF2N4O3S
